US08426433B2
6. 4-amino-1-(3-(5-(N-methyl-N-phenylsulfamoyl)-2-(methylamino)phenylamino)-3-oxopropyl)pyridinium chloride
3-Chloro-N-(5-(N-methyl-N-phenylsulfamoyl)-2-(methylamino)phenyl)propanamide (1 g, 0.0026 mol) and 4-aminopyridinium (0.73 g, 0.0078 mol) were boiled in anhydrous acetone (50 ml) for 50 h. The residue was filtered and subjected to crystallization from a 10:1 mixture of acetonitrile with ethanol.

reactant | 3-Chloro-N-(5-(N-methyl-N-phenylsulfamoyl)-2-(methylamino)phenyl)propanamide | 0.0026 mol, 1 g | ClCCC(=O)NC1=C(C=CC(=C1)S(N(C1=CC=CC=C1)C)(=O)=O)NC | C17H20ClN3O3S
reactant | 4-aminopyridinium | 0.0078 mol, 0.73 g | NC1=CC=[NH+]C=C1
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 4-amino-1-(3-(5-(N-methyl-N-phenylsulfamoyl)-2-(methylamino)phenylamino)-3-oxopropyl)pyridinium chloride | [Cl-].NC1=CC=[N+](C=C1)CCC(=O)NC1=C(C=CC(=C1)S(N(C1=CC=CC=C1)C)(=O)=O)NC | InChI=1S/C22H25N5O3S.ClH/c1-24-20-9-8-19(31(29,30)26(2)18-6-4-3-5-7-18)16-21(20)25-22(28)12-15-27-13-10-17(23)11-14-27;/h3-11,13-14,16,23-24H,12,15H2,1-2H3,(H,25,28);1H
